US09024032B2
A suspension of 3-[(4-methoxybenzyl)oxy]-4H-pyran-4-one (6.2 g, 26.7 mmol) and 120 mL of NH3.H2O was sealed in a glass tube, and the mixture was stirred at 100° C. After 18 h, the reaction mixture was filtered and the collected solid was washed with MeOH to give 3-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one. 1H-NMR (DMSO, 400 MHz) δ 11.27 (s, 1H), 7.50 (s, 1H), 7.41 (s, 1H), 7.30 (dd, J=8.4, 2.8 Hz, 2H), 6.90 (m, 2H), 6.13 (s, 1H), 4.8(s, 2H), 3.72 (s, 3H). MS (M+H)+ 232.0.

reactant | 3-[(4-methoxybenzyl)oxy]-4H-pyran-4-one | 26.7 mmol, 6.2 g | COC1=CC=C(COC2=COC=CC2=O)C=C1 | C13H12O4
reactant | NH3.H2O | 120 mL | N.O
product | 3-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one | COC1=CC=C(COC2=CNC=CC2=O)C=C1 | C13H13NO3
